US09119868B2
A mixture of methyl 2-(4-fluorophenyl)-5-hydroxy-1-benzofuran-3-carboxylate (18.86 g, 65.9 mmol), isopropyl bromide (24.74 mL, 264 mmol) and cesium carbonate (42.9 g, 132 mmol) in dry N-Methyl-2-pyrrolidone (191 mL) was stirred at 60° C. under nitrogen for 20 hours. The resultant thick suspension was allowed to cool to room temperature and then 7% aqueous ammonia solution (200 mL) was added with rapid stirring. This mixture was extracted with heptane (700 mL) and then the aqueous phase was separated off. Ethyl acetate (˜100 mL) was added to the organic phase and the resultant mixture was shaken and then dried over Na2SO4 and evaporated to give a brown oil which crystallized on standing overnight. This material was recrystallized from hot methanol and the solid was collected by filtration, washed with methanol and finally dried under vacuum to give methyl 2-(4-fluorophenyl)-5-[(1-methylethyl)oxy]-1-benzofuran-3-carboxylate. LCMS (m/z, ES+)=329 (M+1). The mother liquors from the first recrystallization were crystallized a second time to give an additional batch of methyl 2-(4-fluorophenyl)-5-[(1-methylethyl)oxy]-1-benzofuran-3-carboxylate.

reactant | methyl 2-(4-fluorophenyl)-5-hydroxy-1-benzofuran-3-carboxylate | 65.9 mmol, 18.86 g | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)OC)C=C(C=C2)O | C16H11FO4
reactant | isopropyl bromide | 264 mmol, 24.74 mL | C(C)(C)Br | C3H7Br
reactant | cesium carbonate | 132 mmol, 42.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ammonia | 200 mL | N | H3N
solvent | N-Methyl-2-pyrrolidone | 191 mL | CN1C(CCC1)=O | C5H9NO
product | methyl 2-(4-fluorophenyl)-5-[(1-methylethyl)oxy]-1-benzofuran-3-carboxylate | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)OC)C=C(C=C2)OC(C)C | C19H17FO4
